US04808580
A mixture of 8.9 g (0.023 mol) of (±)-(S*,R*)-β-[(1-amino-2-naphthalenyl)thio]-α-hydroxy-4-methoxybenzenepropanoic acid methyl ester, 50 ml ethanol and 140 ml 1N sodium hydroxide was heated at reflux for 30 minutes. The reaction mixture was cooled to room temperature, diluted with water (50 ml) and extracted with ether (2×75 ml). The aqueous solution was chilled, then neutralized with acetic acid and extracted with ethyl acetate (3×75 ml). The combined extracts were washed with water (75 ml) and dried (MgSO4). Removal of the solvent gave 8.2 g (96%) of (±)-(S*,R*)-β-[(1-amino-2-naphthalenyl)thio]-α-hydroxy-4-methoxybenzenepropanoic acid, mp 167°-168°. The analyzed sample was recrystallized from ethyl acetate, mp 167°-168°.

reactant | (±)-(S*,R*)-β-[(1-amino-2-naphthalenyl)thio]-α-hydroxy-4-methoxybenzenepropanoic acid methyl ester | 0.023 mol, 8.9 g | COC([C@@H]([C@@H](C1=CC=C(C=C1)OC)SC1=C(C2=CC=CC=C2C=C1)N)O)=O | C21H21NO4S
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 1N, 140 ml | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | (±)-(S*,R*)-β-[(1-amino-2-naphthalenyl)thio]-α-hydroxy-4-methoxybenzenepropanoic acid | 8.2 g, 96% | NC1=C(C=CC2=CC=CC=C12)S[C@@H]([C@H](C(=O)O)O)C1=CC=C(C=C1)OC | C20H19NO4S
